US05563162
To a mixture of diphenyl ether (30 ml) and biphenyl (30 g) was added ethyl 3-(2-methoxyanilino)-2-pentenoate (15.1 g) during which time the internal temperature was maintained 230°-235° C. The mixture was stirred at 235° C. for 1 hour. To the reaction mixture was added hexane (150 ml). The precipitate was collected by vacuum filtration and washed with hexane to give 2-ethyl-4-hydroxy-8-methoxyquinoline (10.37 g) as crystals.

reactant | diphenyl ether | 30 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | biphenyl | 30 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | ethyl 3-(2-methoxyanilino)-2-pentenoate | 15.1 g | COC1=C(NC(=CC(=O)OCC)CC)C=CC=C1 | C14H19NO3
solvent | hexane | 150 ml | CCCCCC | C6H14
product | 2-ethyl-4-hydroxy-8-methoxyquinoline | 10.37 g | C(C)C1=NC2=C(C=CC=C2C(=C1)O)OC | C12H13NO2
